US05214197
A mixture of THF (2.2 ml), methanol (4.4 ml) and triethylborane (1M in THF) (8.52 ml) was stirred at room temperature for one hour in an argon atmosphere. A solution of 1-ethyl 6-tert.-butyl 2-hydroxy-4-oxoadipate (1.85 g, 7.1 mmol) in THF (2 ml) was dropwise added to the above boran solution at room temperature. After stirring at room temperature for 2 hours and cooling the mixture to -78° C., sodium borohydride (229 mg, 6.1 mmol) was added in one portion, followed by stirring at -78° C. for 2 hours. After dropwise adding acetyl chloride (0.26 ml) to the reaction solution at -78° C., the solution was stirred for additional 30 minutes at room temperature. After evaporating methanol off under reduced pressure, methanol (30 ml) was added to the mixture and again methanol was evaporated off under reduced pressure. After adding methylene chloride (20 ml) and water (20 ml), pH of the mixture was adjusted to 6 with 1N hydrochloric acid, and mixture was separated. The aqueous layer was extracted with methylene chloride twice (each 50 ml), and organic layers were combined and washed with water (30 ml). After drying the organic solution over anhydrous sodium sulfate, the solvent was concentrated under reduced pressure. The residue was subjected to silica gel column chromatography (hexane:acetone=5:1) to give pure 1-ethyl 6-tert.-butyl 2,4-dihydroxyadipate (1.76 g, 6.73 mmol). Yield, 95 %.

reactant | triethylborane | 1M, 8.52 ml | C(C)B(CC)CC | C6H15B
reactant | 1-ethyl 6-tert.-butyl 2-hydroxy-4-oxoadipate | 7.1 mmol, 1.85 g | OC(C(=O)OCC)CC(CC(=O)OC(C)(C)C)=O | C12H20O6
reactant | sodium borohydride | 6.1 mmol, 229 mg | [BH4-].[Na+]
reactant | acetyl chloride | 0.26 ml | C(C)(=O)Cl | C2H3ClO
solvent | THF | 2 ml | C1CCOC1 | C4H8O
solvent | THF | 2.2 ml | C1CCOC1 | C4H8O
solvent | methanol | 4.4 ml | CO | CH4O
product | 1-ethyl 6-tert.-butyl 2,4-dihydroxyadipate | 6.73 mmol, 1.76 g | OC(C(=O)OCC)CC(CC(=O)OC(C)(C)C)O | C12H22O6
